US05502073
Diisobutylaluminium hydride (11.8 ml. 1M solution in toluene) was added to a stirred solution of 4-cyanophenyl trifluoromethyl ether (2.0 g., Fairfield) in dry diethyl ether (100 ml.). The mixture was refluxed with stirring for 3 hours. The mixture was cooled and dioxane (5 ml.) containing water 1.0 ml.) was added. Dilute hydrochloric acid was added (60 ml. of 10% solution). The mixture was stirred for 30 minutes and extracted with diethyl ether. The ethereal extracts were washed with water and dried over anhydrous magnesium sulphate. The solvent was removed in vacuo and the residue was purified by chromatography on silica, eluting with 9:1 hexane:diethyl ether. 4-Trifluoromethoxybenzaldehyde was obtained as a colourless liquid (1.65 g.).

reactant | Diisobutylaluminium hydride | 1M, 11.8 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 4-cyanophenyl trifluoromethyl ether | 2.0 g | FC(F)(F)OC1=CC=C(C=C1)C#N | C8H4F3NO
reactant | dioxane | 5 ml | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | water | 1.0 ml | O | H2O
product | 4-Trifluoromethoxybenzaldehyde | FC(OC1=CC=C(C=O)C=C1)(F)F | C8H5F3O2
